US06719520B2
3-[4-[2-[N-[6-(Acetyiamino)hexyl]aminocarbonyl]ethyl]phenylamino]-4-(3-nitrophenyl)-1H-pyrrole-2,5-dione
A solution of triethylamine (81 mg, 0.8 mmol) in dry N,N-diethylformamide (5 mL) was added to a mixture of 3-[4-[2-(hydroxycarbonyl)ethyl]phenylamino]-4-(3-nitrophenyl)-1H-pyrrole-2,5-dione (Example A763, 152 mg, 0.4 mmol), N-(6-aminohexyl)acetamide hydrochloride (78 mg, 0.4 mmol), 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide hydrochloride (77 mg, 0.4 mmol) and 1-hydroxybenzotriazole (54 mg, 0.4 mmol) and the resulting mixture stirred at room temperature for 18 hours. The mixture was diluted with ethyl acetate (25 mL) and washed successively with water (2×25 mL), saturated aqueous sodium bicarbonate solution (25 mL), water (2×25 mL), brine (25 mL), dried over magnesium sulphate and concentrated. The residue was redissolved in dichloromethane-methanol (1:1 v/v), filtered and evaporated to afford the title compound as a foam.

reactant | triethylamine | 0.8 mmol, 81 mg | C(C)N(CC)CC | C6H15N
reactant | 3-[4-[2-(hydroxycarbonyl)ethyl]phenylamino]-4-(3-nitrophenyl)-1H-pyrrole-2,5-dione | 0.4 mmol, 152 mg | OC(=O)CCC1=CC=C(C=C1)NC=1C(NC(C1C1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C19H15N3O6
reactant | N-(6-aminohexyl)acetamide hydrochloride | 0.4 mmol, 78 mg | Cl.NCCCCCCNC(C)=O
reactant | 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide hydrochloride | 0.4 mmol, 77 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.4 mmol, 54 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-diethylformamide | 5 mL | C(C)N(C=O)CC | C5H11NO
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 3-[4-[2-[N-[6-(Acetyiamino)hexyl]aminocarbonyl]ethyl]phenylamino]-4-(3-nitrophenyl)-1H-pyrrole-2,5-dione | C(C)(=O)NCCCCCCNC(=O)CCC1=CC=C(C=C1)NC=1C(NC(C1C1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C27H31N5O6
